US08604211B2
Preparation of 2-(aminomethyl)-N-[5-(5-fluoro-3-pyridyl)-1,3,4-thiadiazol-2-yl]-N,2-dimethyl-3-methylsulfanyl-propanamide (Compound 89)
A suspension of 2-cyano-N-[5-(5-fluoro-3-pyridyl)-1,3,4-thiadiazol-2-yl]-N,2-dimethyl-3-methylsulfanyl-propanamide (157 mg, 0.4 mmol) and platinum oxide (131 mg, 0.6 mmol) in glacial acetic acid (8 mL) was reduced under 45 psi of hydrogen at room temperature for 16 hours, filtered through Celite and concentrated under reduced pressure. The residue was treated with saturated aqueous sodium bicarbonate (30 mL) and extracted with ethyl acetate (3×50 mL). Organic extracts were concentrated under reduced pressure and purified by reversed phase silica chromatography eluting with an aqueous acetonitrile mobile phase. Yield 33 mg (21%): mp 154-157° C.; IR (KBr thin film) 1656, 1383 cm−1; 1H NMR (400 MHz, CDCl3) δ 11.17 (br, 1H), 9.02 (t, J=1.6 Hz, 1H), 8.43 (d, J=2.8 Hz, 1H), 8.11 (ddd, J=9.8, 2.8, 1.8 Hz, 1H), 3.87 (d, J=2.9 Hz 1H), 3.48 (s, 3H), 3.47 (d, J=2.9 Hz, 1H), 2.99 (d, J=12.7 Hz, 1H), 2.78 (d, J=13.6 Hz, 1H), 2.20 (s, 3H), 1.41 (s, 3H); ESIMS (m/z) 356 [M+H]+.

reactant | 2-cyano-N-[5-(5-fluoro-3-pyridyl)-1,3,4-thiadiazol-2-yl]-N,2-dimethyl-3-methylsulfanyl-propanamide | 0.4 mmol, 157 mg | C(#N)C(C(=O)N(C)C=1SC(=NN1)C=1C=NC=C(C1)F)(CSC)C | C14H14FN5OS2
reactant | hydrogen | [H][H] | H2
solvent | acetic acid | 8 mL | C(C)(=O)O | C2H4O2
catalyst | platinum oxide | 0.6 mmol, 131 mg | [Pt]=O
product | 2-(aminomethyl)-N-[5-(5-fluoro-3-pyridyl)-1,3,4-thiadiazol-2-yl]-N,2-dimethyl-3-methylsulfanyl-propanamide | NCC(C(=O)N(C)C=1SC(=NN1)C=1C=NC=C(C1)F)(CSC)C | C14H18FN5OS2
